US06624196B2
In a manner similar to that described in Example 3, propionyl chloride (0.029 g, 0.00032 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.027 g of 4-oxo-4-[4-(propionylamino)-phenyl]-butyric acid as an off-white solid; MS-(AP+) MH+250.

reactant | propionyl chloride | 0.00032 mol, 0.029 g | C(CC)(=O)Cl | C3H5ClO
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-oxo-4-[4-(propionylamino)-phenyl]-butyric acid | 0.027 g | O=C(CCC(=O)O)C1=CC=C(C=C1)NC(CC)=O | C13H15NO4
